US04388317
A mixture of 2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamine (1.71 g) and 2-nitroamino-5-(6-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone (1.98 g) in pyridine (12 ml) was refluxed for 22 hr, allowed to cool and the pyridine evaporated at reduced pressure. The residue was washed by decantation with hot water, dissolved in dilute ethanolic hydrochloric acid, and the solvent evaporated yielding 2-[2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino]-5-(6-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone. The residue was recrystallised from methanol/dilute ethanolic hydrochloric acid and from methanol/ethanol to give the 3.8 hydrochloride 1.4 hydrate (0.85 g) as a light buff solid m.p. 142°-5° C. Evaporation of the mother liquors and recrystallisation of the residue from methanol/ethanol yields more product (0.62 g) m.p. 138°-142° C.

reactant | 2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamine | 1.71 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 2-nitroamino-5-(6-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone | 1.98 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)CN(C)C | C13H16N6O3
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino]-5-(6-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)CN(C)C | C23H32N6O2S
